US05234928
Ethyl 1-(2,4-dichlorophenyl)methyl-1,4-dihydro-2,4-dioxo-6-fluoro-7-imidazolyl-3(2H)-quinazolineacetate
Into 50 ml of dimethylformamide were dissolved 2.33 g of ethyl 1,4-dihydro-2,4-dioxo-6-fluoro-7-imidazolyl-3(2H)-quinazolineacetate, and, after added 0.97 g of potassium carbonate and 1.51 g of 2,4-dichlorobenzyl chloride, the mixture was stirred for 5 hours at 100° C. After cooling by allowing to stand, the reaction mixture was poured into 500 ml of water and the deposits were collected by filtration. They were recrystallized from ethanol to obtain 2.25 g of title compound. m.p. 192°-193° C.

reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
reactant | ethyl 1,4-dihydro-2,4-dioxo-6-fluoro-7-imidazolyl-3(2H)-quinazolineacetate | 2.33 g | O=C1NC2=CC(=C(C=C2C(N1CC(=O)OCC)=O)F)C=1NC=CN1 | C15H13FN4O4
reactant | potassium carbonate | 0.97 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,4-dichlorobenzyl chloride | 1.51 g | ClC1=C(CCl)C=CC(=C1)Cl | C7H5Cl3
solvent | water | 500 ml | O | H2O
product | Ethyl 1-(2,4-dichlorophenyl)methyl-1,4-dihydro-2,4-dioxo-6-fluoro-7-imidazolyl-3(2H)-quinazolineacetate | 2.25 g | ClC1=C(C=CC(=C1)Cl)CN1C(N(C(C2=CC(=C(C=C12)C=1NC=CN1)F)=O)CC(=O)OCC)=O | C22H17Cl2FN4O4
